US04230707
2-Ethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid, methyl ester
A mixture of 10 g (0.05 mol) of 2-amino-5-ethyl-3-thiophenecarboxylic acid, ethyl ester (Chemische Berichte, Vol. 99, pages 94-100, 1966) and 8.61 g (0.05 mol) of 6-chloro-3-pyridinecarboxylic acid, methyl ester (Alfred Bader Chemical Company) is heated in a wax bath at 178°-188° C. for three hours under nitrogen. The distillate is collected in a Dean-Stark trap attached to the reaction flask. The mixture is cooled, dissolved in hot methanol, cooled and 5.5 g of 2-ethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid, methyl ester is collected; mp 151°-152° C. after recrystallization from methanol.

reactant | 2-amino-5-ethyl-3-thiophenecarboxylic acid, ethyl ester | 0.05 mol, 10 g | NC=1SC(=CC1C(=O)OCC)CC | C9H13NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid, methyl ester | 0.05 mol, 8.61 g | ClC1=CC=C(C=N1)C(=O)OC | C7H6ClNO2
product | 2-Ethyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid, methyl ester | C(C)C1=CC2=C(N=C3N(C2=O)C=C(C=C3)C(=O)OC)S1 | C14H12N2O3S
